US06228868B1
N-(2-hydroxy-2-phenylethyl)-3,5-dimethoxybenzamide
A suspension of 3,5-dimethoxybenzoic acid (1.00 g, 5.49 mmol) in dichloromethane (50 mL) at 0° C. was treated with HOBt hydrate (0.742 g, 5.49 mmol), stirred for 15 minutes, treated with EDCI (1.05 g, 5.49 mmol) in one portion, stirred for an additional 25 minutes, treated with triethylamine (1.84 g; 2.53 mL, 1.9 mmol) and the acetate salt of 2-amino-1-(3,4,5-trimethoxyphenyl)ethanol (1.58 g, 005.49 mmol), stirred for 18 hours while warming to room temperature, and concentrated. The concentrate was partitioned between ethyl acetate (400 mL) and water (200 mL), and the organic extract was washed sequentially with 10% KHSO4 (200 mL), water (100 mL), NaHCO3 (200 mL), and water (100 mL), dried (MgSO4), filtered, and concentrated to provide 1.56 g of the desired product as a white foamy semi-solid.

reactant | 3,5-dimethoxybenzoic acid | 5.49 mmol, 1.00 g | COC=1C=C(C(=O)O)C=C(C1)OC | C9H10O4
reactant | HOBt hydrate | 5.49 mmol, 0.742 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI | 5.49 mmol, 1.05 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 1.9 mmol, 2.53 mL, 1.84 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-1-(3,4,5-trimethoxyphenyl)ethanol | 1.58 g | NCC(O)C1=CC(=C(C(=C1)OC)OC)OC | C11H17NO4
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2-hydroxy-2-phenylethyl)-3,5-dimethoxybenzamide | 1.56 g | OC(CNC(C1=CC(=CC(=C1)OC)OC)=O)C1=CC=CC=C1 | C17H19NO4
